US08461339B2
B. Isoquinolin-3-yl-(4-piperazin-1-ylmethyl-pyridin-2-yl)-amine
2-(Isoquinolin-3-ylamino)-4-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-pyridine was treated with 8 M HCl/EtOAc to afford the title compound as a salt in near quantitative yield (50 mg). 1H NMR (CDCl3, 300 MHz) δ: 3.44 (s, 4H, PyridylCH2NCH2CH2), 3.45 (s, 4H, NHCH2), 4.25 (s, 2H, pyridylCH2), 7.01-8.87 (m, 9H, isoquinolyl+pyridyl).

reactant | 2-(Isoquinolin-3-ylamino)-4-(4-tert-butoxycarbonylpiperazin-1-ylmethyl)-pyridine | C1=NC(=CC2=CC=CC=C12)NC1=NC=CC(=C1)CN1CCN(CC1)C(=O)OC(C)(C)C | C24H29N5O2
reactant | HCl EtOAc | 8 M | Cl.CCOC(=O)C
product | Isoquinolin-3-yl-(4-piperazin-1-ylmethyl-pyridin-2-yl)-amine | quantitative yield | C1=NC(=CC2=CC=CC=C12)NC1=NC=CC(=C1)CN1CCNCC1 | C19H21N5
